Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"something bad happened"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old female with unconfirmed past 
psychiatric history who reportedly presented to her therapist 
after "something bad happened," was frankly tearful, and asked 
her therapist to send her to the hospital. She was placed on a 
S12 by outpatient provider and transported to ED via ambulance. 
Psychiatry was consulted for safety assessment.
.
She stated that something really bad happened the day of 
admission but declined to elaborate further ("I don't want to 
tell you"). She endorses that she went to her therapist the day 
of admission because she was instructed in the past to see the 
therapist when she was feeling bad or down. The patient asked 
her therapist to send her to the hospital for this reason. She 
presented to the ___ ED.
.
When asked about their suicidal ideation, the patient says she 
had thoughts of  wanting to die on the day of admission. She 
repeatedly declined to directly answer if she had a plan and 
continued to state that she felt really bad and down. She did 
endorse a feeling of not wanting to exist.
.
ED: patient was in adequate behavioral control and did not 
require physical or chemical restraints. 
. 
Upon arrival to unit, patient became more amenable to talking, 
and she  reported that what made her feel so depressed to the 
point of wanting to ___ her life were lewd remarks made to her 
by strangers on the street. She was cooperative with interview, 
but remained quite vague in her descriptions. 
 
Past Medical History:
Past psychiatric history:
- Diagnoses: unconfirmed, therapist has diagnosed her with 
schizoaffective disorder and cognitive delay but no formal 
diagnoses
- Hospitalizations: unknown, per therapist, was hospitalized at 
___ in ___ for unclear reasons 
- Psychiatrist/NP: denies
- Therapist: ___ at ___
. 
Past medical history: 
Obesity 

 
Social History:
___
Family History:
Denies
 
Physical Exam:
VS: T:98.6 , BP:96/67 , HR:73 , R:17 , O2 sat: 99% on RA
General: Middle-aged female in NAD. Well-nourished, 
well-developed. Appears stated age. Eyes appear as if she has 
been crying for some time. 
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended, obese. No palpable 
masses or organomegaly.
Extremities: No clubbing, cyanosis, 2+ pitting edema b/l up to 
shins approx 4cm below knees
Skin: No rashes, abrasions, scars, or lesions.
Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Vacial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength: full power ___ throughout. 
Coordination: Normal on finger to nose test. DTRs: 2+ and 
symmetrical throughout. Sensation: Intact to light touch 
throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.
Romberg: Negative.
Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Executive function (go-no go, Luria, trails, FAS): not tested
Memory: unable to assess secondary to disorganized thought
process
Fund of knowledge: unable to assess secondary to disorganized
thought process
Speech: normal rate, volume, and tone
Language: native ___ speaker, no paraphasic errors, at times
inappropriate to conversation demonstrating loose association of
ideas. 
Mental Status:
Appearance: Apparently had been crying prior to presentation, 
appears stated age, uncombed hair, poorly groomed, dressed in 
hospital clothing
Behavior: Calm, cooperative after encouragement, engaged, at 
times tearful, pleasant, appropriate eye contact, no psychomotor 
agitation or retardation
Mood and Affect: "Not good" appropriate to situation, congruent 
with mood
Thought Process: disorganized loose association of ideas
Thought Content: denies current and active SI/HI/AH/VH, no
evidence of delusions, or paranoia
Judgment and Insight: poor/poor
.
Discharge Examination:
VS: 98.5 PO; 123/87; 99; 18; 98 
 station and gait: ambulates slowly, normal gait and station
 tone and strength: moves all four extremities spontaneously
and anti-gravity 
 *Appearance: Appears stated age, obese, dressed casually, 
disheveled, with adequate hygiene and grooming 
 Behavior: makes good eye contact, cooperative with interview
 *Mood and Affect: "better", smiling during interview, affect
congruent
 *Thought process: linear, goal/future oriented, absence of
loose associations
 *Thought Content:absence of hallucinations, delusions,
homicidal ideation, or suicidal ideation
 *Judgment and Insight: limited/limited 
 Cognition:
 *Attention, *orientation, and executive function: AAOx3,
intact
 *Memory: short term and long term grossly intact
 *Fund of knowledge: below average
 *Speech: normal rate, volume, prosody 
 *Language: ___ speaking, fluent, though according to the
interpreter she speaks with grammatical errors 
 
Pertinent Results:
___ 06:45PM URINE  HOURS-RANDOM
___ 06:45PM URINE  UCG-NEGATIVE
___ 06:45PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:45PM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 06:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-TR*
___ 06:45PM URINE  RBC-<1 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-7
___ 06:45PM URINE  MUCOUS-RARE*
___ 05:00PM   GLUCOSE-94 UREA N-13 CREAT-0.7 SODIUM-137 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-22 ANION GAP-13
___ 05:00PM   estGFR-Using this
___ 05:00PM   %HbA1c-6.1* eAG-128*
___ 05:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:00PM   WBC-10.8* RBC-4.62 HGB-9.1* HCT-30.5* MCV-66* 
MCH-19.7* MCHC-29.8* RDW-19.1* RDWSD-43.6
___ 05:00PM   NEUTS-49.3 ___ MONOS-9.5 EOS-1.3 
BASOS-0.9 IM ___ AbsNeut-5.43 AbsLymp-4.25* AbsMono-1.04* 
AbsEos-0.14 AbsBaso-0.10*
___ 05:00PM   PLT COUNT-281
 
Brief Hospital Course:
This is the complicated case of a ___ year old ___ speaking 
homeless woman from ___ with very unclear 
psychiatric history, apparently at least one prior psychiatric 
hospitalization in ___, who presented to ___ ED on a ___ after seeing her therapist in significant distress, 
requesting admission to an inpatient psychiatric facility.
. 
History from Ms. ___ was significantly limited, as 
she was notably vague throughout her hospital course but 
significant for feeling quite upset after she overheard a group 
of adolescents commenting on rumors of sexual indiscretion. 
Review of systems is quite limited given her poor historic 
nature, but mental status examination is notable for an 
adequately groomed woman who was noted to be smiling oddly 
during serial interviews, reporting depressed mood but with 
incongruent and blunted affect. Thought process appears to be 
concrete but linear. Of note, she did not appear to be 
responding to internal stimuli during her hospitalization. 
Collateral from her outpatient therapist of one year, Dr. ___ 
___ revealed that she had been on psychotropic 
medications in the past with periods of depression and 
preoccupation that others believe she has been sexually 
inappropriate. 
.
Diagnostically, etiology of presentation is unclear to me at 
this point and neuropychological testing as an outpatient would 
be helpful (could not perform during this admission due to the 
language barrier) for diagnostic clarification. Differential 
diagnosis includes underlying neurodevelopmental disorder. Of 
note, although she reported feeling depressed at times, she did 
not appear dysphoric/dysthymic on my examination-- I do not 
believe she was suffering from a depressive episode, nor was 
there any evidence of mania on my examination. In addition, her 
thought process was mostly linear, goal oriented and she did not 
appear to be responding to internal stimuli-- she did not appear 
to be acutely psychotic on my examination, although her history 
does suggest some underlying paranoia. In addition, nothing in 
her history to suggest a history of prior drug or alcohol use-- 
I do not believe substance use was contributing to her current 
presentation. Medical workup was benign other than anemia, I do 
not believe an underlying medical cause was contributing. 
. 
# Safety/Legal: Patient was admitted to ___ on a ___ and signed a conditional voluntary form, which was accepted. 
She maintained her safety throughout her hospitalization on 15 
minute checks and did not require physical or chemical 
restraints during her hospitalization. 
.
# Unspecified Mood Disorder: as noted above 
- Patient maintained good behavioral control in the milieu and 
was compliant in meeting with her treatment team. 
- For reported depression and due to concerns for paranoia, we 
did discuss the risks and benefits of Abilify, which was started 
at 5 mg po qd. Of note, she tolerated this well with no reported 
side effects
- Of note, by time of discharge, patient was consistently 
denying suicidal ideation or thoughts of self harm. She was 
notably linear, goal and future oriented with plan to follow up 
with her outpatient providers.  
.
# Microcytic Anemia - CBC showed MCV of 66 and Hgb of 9.1.
- Fe studies in support of iron deficiency anemia
- provide Fe nutritional supplement
- recommend follow up with PCP for further treatment/improvement 

 
Medications on Admission:
None
 
Discharge Medications:
Aripiprazole 5 mg PO Daily
Ferrous Sulfate 325 mg PO TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder 

 
Discharge Condition:
VS: 98.5 PO; 123/87; 99; 18; 98 
    station and gait: ambulates slowly, normal gait and station
    tone and strength: moves all four extremities spontaneously
and anti-gravity 
  *Appearance: Appears stated age, obese, dressed casually, 
disheveled, with adequate hygiene and grooming 
  Behavior: makes good eye contact, cooperative with interview
  *Mood and Affect: 'better', smiling during interview, affect
congruent
  *Thought process: linear, goal/future oriented, absence of
loose associations
  *Thought Content:absence of hallucinations, delusions,
homicidal ideation, or suicidal ideation
  *Judgment and Insight: limited/limited 
  Cognition:
    *Attention, *orientation, and executive function: AAOx3,
intact
    *Memory: short term and long term grossly intact
    *Fund of knowledge: below average
    *Speech: normal rate, volume, prosody 
    *Language: ___ speaking, fluent, though according to the
interpreter she speaks with grammatical errors 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___